2155-05-27 07:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2155-5-26**] 08:30 AM
 NASAL SWAB - At [**2155-5-26**] 09:00 AM
 URINE CULTURE - At [**2155-5-26**] 12:00 PM
   > Hepatology consult
   > CT brain
   > MRCP this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-5-26**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-27**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 92 (86 - 119) bpm
   BP: 95/60(68) {93/60(68) - 144/89(123)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.6 kg (admission): 77.6 kg
   CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  5,580 mL
                                                                    684 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  5,580 mL
                                                                    654 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,500 mL
   Urine:
                                                                  4,010 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Sclera edema, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   87 K/uL
   85 mg/dL
   0.6 mg/dL
   29 mEq/L
   2.5 mEq/L
   4 mg/dL
   97 mEq/L
   136 mEq/L
   31.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2155-5-26**]  10:29 AM
                             [**2155-5-26**]  02:44 PM
                             [**2155-5-26**]  08:41 PM
                             [**2155-5-27**]  03:45 AM
   WBC
   6.8
   6.9
   6.7
   Hct
   33.3
   34.1
   31.3
   Plt
   76
   89
   87
   Cr
   0.6
   0.7
   0.6
   0.6
   Glucose
   108
   117
   85
   85
   Other labs: PT / PTT / INR:16.3/38.4/1.5, CK / CKMB / Troponin-T:237//,
   ALT / AST:50/147, Alk Phos / T Bili:117/8.2, Fibrinogen:119 mg/dL,
   Lactic Acid:1.5 mmol/L, LDH:431 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:1.2 mg/dL
   Assessment and Plan
   28 y.o. F with a history of hepatitis C, ? EtOH abuse and prior IVDU
   presenting with prolonged poor po intake, pancreatitis, jaundice,
   hypokalemia, hyponatremia and three witnessed GTC seizures.
   > Seizures: seems most likely [**1-20**] hyponatremia (see below) vs EtOH
   withdrawl as her EtOh consumption is not clear.  Head CT was
   unremarkable. No further seizure activity.
   - Monitor for EtOH withdrawl (CIWA protocol)
   - Cont to follow clinical exams.
   - thiamine and folate
    > Hyponatremia: hypovolemic, hyponatremia with good response to fluid
   challenge
    > Hypokalemia: in the setting of metabolic alkalosis: likely in the
   setting of profound contraction alkalosis. Continue to replete K and Cl
   as well as volume repletion, would favor using KCL IV and continue to
   run volume goal of I/O
   - Followi up urine Cl
   - trend K and aggressive repletion
   > Pancreatitis: obstructed biliary pattern (unclear could be
   gallstonevs  EtOH.  Appreciate hepatology rec
s. Awaiting MRCP read
   - NPO for now (ice chips OK)
   - IVF as above
   -MRCP read
   - no empiric Abx
   > DIC: evidence of DIC on initial lab panels likely in the setting of
   pancreaititis, these seem to be slowly improving. Will cont to follow.
   > Liver disease: f/u Hep serologies, f/u MRCP although likely [**1-20**] EtOH
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-26**] 08:30 AM
   20 Gauge - [**2155-5-26**] 08:48 AM
   18 Gauge - [**2155-5-26**] 08:48 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2155-05-27 10:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2155-5-26**] 08:30 AM
 NASAL SWAB - At [**2155-5-26**] 09:00 AM
 URINE CULTURE - At [**2155-5-26**] 12:00 PM
   -multiple liver serologies pending
   -Hepatology Consult
   -Electrolyte repletion
   -DIC labs followed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-5-26**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-27**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 98 (86 - 113) bpm
   BP: 113/77(85) {93/60(68) - 144/89(123)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.6 kg (admission): 77.6 kg
    CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  5,580 mL
                                                                    905 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  5,580 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,800 mL
   Urine:
                                                                  4,010 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                   -895 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   11.3 g/dL
   85 mg/dL
   0.6 mg/dL
   29 mEq/L
   2.5 mEq/L
   4 mg/dL
   97 mEq/L
   136 mEq/L
   31.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2155-5-26**]  10:29 AM
                             [**2155-5-26**]  02:44 PM
                             [**2155-5-26**]  08:41 PM
                             [**2155-5-27**]  03:45 AM
   WBC
   6.8
   6.9
   6.7
   Hct
   33.3
   34.1
   31.3
   Plt
   76
   89
   87
   Cr
   0.6
   0.7
   0.6
   0.6
   Glucose
   108
   117
   85
   85
   Other labs: PT / PTT / INR:16.3/38.4/1.5, CK / CKMB / Troponin-T:237//,
   ALT / AST:50/147, Alk Phos / T Bili:117/8.2, Fibrinogen:119 mg/dL,
   Lactic Acid:1.5 mmol/L, LDH:431 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:1.2 mg/dL
   Assessment and Plan
   28 y.o. F with a history of hepatitis C and prior IVDU presenting with
   prolonged poor po intake, pancreatitis, jaundice, hypokalemia,
   hyponatremia and three witnessed GTC seizures
 H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
    Seizures: most likely related to alcohol withdrawal, but also can be
   attributed to multiple electrolyte abnormalities.  She did receive
   benzodiazepines and fosphenytoin in the OSH ED. CT head without lesion
   --CIWA scale, standing diazepam for now.  Will not continue
   antiepileptic at this time
   --Electrolyte repletion.
   --Noncontrast CT head negative for mass lesion
   --Seizure precautions
   -- Thiamine, Folate, MVI
   2. Pancreatitis:  Most likely alcoholic pancreatitis.  Although no
   biliary dilation or stone seen on RUQ ultrasound, her LFT pattern is
   primarily obstructive, cannot r/o gallstone.
   --MRCP done this morning-result pending
   --NPO, IVF (maintenance for now)
   --Antiemetics as needed, pain control as needed.
   3. Hyponatremia: corrected with volume resuscitation. Rate of
   correction suggests acute drop, which  may have contributed to seizure
   4. Hypokalemic, hypochloremic metabolic alkalosis:  from significant
   vomiting
   --Antiemetics
   --electrolyte repletion
   --due to profound contraction metabolic alkalosis, remains hypokalemic.
   5. Abnormal LFTs: history of hepatitis C infection and either hepatitis
   A or B (she is unsure).  Ultrasound consistent with fatty liver.  She
   has a mild transaminitis, with a prominent elevated TB/DB consistent
   with obstruction.   She has thrombocytopenia and a mildly elevated
   INR.
   --Appreciate liver evaluation
   --F/u MRCP results
   --Follow up multiple serologies to better identify underlying liver
   disease
   6. IVDU: on methadone. Call into her methadone program and message left
   to confirm--[**Location (un) **] public health commission.  She reports a dose of 65
   mg, roommate reports 40 mg.
   --Dose of 65 mg confirmed, but patient with long QTc
   --MS Contin standing for now until QTc normalizes.
   7. TCP/Low fibrinogen/Elev coags: concerning for DIC. Will trend, cryo
   if fibrinogen <100.  Have been stable to date.
   8. Long QTc: holding the methadone and repleting electrolytes. Recheck
   ECG once electrolytes have normalized prior to restarting methadone
   FEN: significant electrolyte abnormalities.  Frequent lyte checks. Has
   received 180 mEq of potassium to date.  Change to NS at 150 cc/hr for
   now. NPO until after MRCP interpretation.
   PPX: SQ heparin, PPI
   ACCESS: CVL
   CODE STATUS: full, confirmed at admission
   EMERGENCY CONTACT: Father
   DISPOSITION: ICU for now
   ICU Care
   Nutrition: As above
   Glycemic Control:
   Lines:
   Multi Lumen - [**2155-5-26**] 08:30 AM
   20 Gauge - [**2155-5-26**] 08:48 AM
   18 Gauge - [**2155-5-26**] 08:48 AM
   Prophylaxis:
   DVT:  Pneumoboots, restart heparin if DIC labs remain stable for add
   24 hours
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, consider call out later today

2155-05-28 06:27:00 Physician Resident Progress Note
24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2155-5-27**] 09:30 AM
   -MRCP: no biliary pathology, fatty liver, no focal lesion, fluid around
   pancreatic tail c/w pancreatitis
   -Liver: likely alcoholic hepatitis. Give vitamin K. Follow Direct
   bilirubin
   -Electrolytes: improving, at 1 pm received a total of 80 mEq of KCl.
   Completed her additional liter of NS with steady UOP. Late lytes
   repleted K and PO4, wrote for additional NS liter to keep up with UOP
   -DIC labs stable, HCT stable
   -B12/folate normal
   -SW consult: pending
   -T 100.7 at 8 pm, urine and blood cultures sent. No pulm symptoms
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-27**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-28**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 107 (81 - 114) bpm
   BP: 87/51(60) {82/51(60) - 129/92(100)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.6 kg
    CVP: -1 (-1 - 9)mmHg
   Total In:
                                                                  4,225 mL
                                                                    989 mL
   PO:
                                                                  1,460 mL
   TF:
   IVF:
                                                                  2,765 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                  4,490 mL
                                                                    920 mL
   Urine:
                                                                  4,490 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   11.0 g/dL
   107 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.4 mEq/L
   4 mg/dL
   99 mEq/L
   135 mEq/L
   32.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2155-5-26**]  10:29 AM
                             [**2155-5-26**]  02:44 PM
                             [**2155-5-26**]  08:41 PM
                             [**2155-5-27**]  03:45 AM
                             [**2155-5-27**]  01:57 PM
                             [**2155-5-27**]  06:23 PM
                             [**2155-5-28**]  05:24 AM
   WBC
   6.8
   6.9
   6.7
   8.2
   Hct
   33.3
   34.1
   31.3
   32.9
   32.2
   Plt
   76
   89
   87
   122
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   108
   117
   85
   85
   160
   107
   Other labs: PT / PTT / INR:16.3/38.4/1.5, CK / CKMB / Troponin-T:237//,
   ALT / AST:50/147, Alk Phos / T Bili:117/8.2, Fibrinogen:148 mg/dL,
   Lactic Acid:1.5 mmol/L, LDH:431 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.3 mg/dL
   BCx and Ucx pending from [**5-27**]
   [**Doctor First Name **] neg
   AMA neg
   Hep C AB +
   HIV negative
   Hep A IgG +
   Hep B serologies
 not immunized
   MRCP [**5-27**]:
   IMPRESSION:
   1. Diffuse fatty infiltration of the liver.
   2. Fluid seen adjacent to the pancreatic tail likely represents
   sequelae from
   recent prior pancreatitis.
   3. No biliary ductal abnormalities identified.
   Assessment and Plan
   28 y.o. F with a history of hepatitis C and prior IVDU presenting with
   prolonged poor po intake, pancreatitis, jaundice, hypokalemia,
   hyponatremia and three witnessed GTC seizures.
   1. Pancreatitis:  Most likely alcoholic pancreatitis.  Although no
   biliary dilation or stone seen on RUQ ultrasound, her LFT pattern is
   primarily obstructive.  MRCP negative.
   --send Triglycerides today for etiology of pancreatitis
   --ADAT (on soft)
   --complete 1 L IVF today
   --Antiemetics as needed, pain control as needed
   --no need for steroids as discriminant function low
   2. Seizures: most likely related to alcohol withdrawal, but also can be
   attributed to multiple electrolyte abnormalities.  She did receive
   benzodiazepines and fosphenytoin in the OSH ED. CT head without lesion
   --CIWA scale, standing diazepam 10 mg [**Hospital1 **].  Will not continue
   antiepileptic at this time.
   --Electrolyte repletion
   --Seizure precautions
   --Thiamine, Folate, MVI
   3. Hyponatremia: corrected with volume resuscitation. Rate of
   correction suggests acute drop, which  may have contributed to seizure
   4. Hypokalemic, hypochloremic metabolic alkalosis:  from significant
   vomiting, resolving
   --Antiemetics
   --electrolyte repletion
   5. Hepatitis C/Alcoholic Cirrhosis: Ultrasound consistent with fatty
   liver.  She has a mild transaminitis, with a prominent elevated TB/DB
   consistent with obstruction.   She has thrombocytopenia and a mildly
   elevated INR.
   --Appreciate liver evaluation: will set up with liver f/u in 6 weeks
   --Follow up multiple serologies to better identify underlying liver
   disease
   6. IVDU: on methadone. Call into her methadone program and message left
   to confirm--[**Location (un) **] public health commission.  She reports a dose of 65
   mg, roommate reports 40 mg.
   --EKG tomorrow
   --if QTC normal, start methadone tomorrow AM
   --SW consult
   7. TCP/Low fibrinogen/Elev coags: no longer c/w DIC. No longer needing
   to  monitor.
   8. Long QTc: holding the methadone and repleting electrolytes. Recheck
   ECG tomorrow once electrolytes have normalized prior to restarting
   methadone
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines: Pull CVL, place 2^nd PIV
   Multi Lumen - [**2155-5-26**] 08:30 AM
   18 Gauge - [**2155-5-26**] 08:48 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments: Foley out today
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2155-05-28 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2155-5-27**] 09:30 AM
   > electrolyte repletion
   > Febrile to 100.7 F (checked urine and blood)
   > Last PRN valium 11:30 AM [**5-28**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-5-27**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-28**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 107 (81 - 114) bpm
   BP: 87/51(60) {82/51(60) - 129/92(100)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.6 kg
   CVP: -1 (-1 - 9)mmHg
   Total In:
                                                                  4,225 mL
                                                                  1,229 mL
   PO:
                                                                  1,460 mL
   TF:
   IVF:
                                                                  2,765 mL
                                                                  1,229 mL
   Blood products:
   Total out:
                                                                  4,490 mL
                                                                  1,270 mL
   Urine:
                                                                  4,490 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Sclera edema, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace. Right IJ
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): x3, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   122 K/uL
   92 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   2 mg/dL
   98 mEq/L
   136 mEq/L
   32.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2155-5-26**]  10:29 AM
                             [**2155-5-26**]  02:44 PM
                             [**2155-5-26**]  08:41 PM
                             [**2155-5-27**]  03:45 AM
                             [**2155-5-27**]  01:57 PM
                             [**2155-5-27**]  06:23 PM
                             [**2155-5-28**]  05:24 AM
   WBC
   6.8
   6.9
   6.7
   8.2
   Hct
   33.3
   34.1
   31.3
   32.9
   32.2
   Plt
   76
   89
   87
   122
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   108
   117
   85
   85
   160
   107
   92
   Other labs: PT / PTT / INR:15.6/32.9/1.4, CK / CKMB / Troponin-T:237//,
   ALT / AST:49/122, Alk Phos / T Bili:116/7.8, Fibrinogen:148 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:516 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [1][**2155-5-27**] 08:22PM
                                     50*
                                      4
                                     FEW
                                    NONE
                                     <1
   MRCP  [**5-27**]:
   1. Diffuse fatty infiltration of the liver.
   2. Fluid seen adjacent to the pancreatic tail likely represents
   sequelae from
   recent prior pancreatitis.
   3. No biliary ductal abnormalities identified
   Assessment and Plan
   28 y.o. F with a history of hepatitis C, ? EtOH abuse and prior IVDU
   presenting with prolonged poor po intake, pancreatitis, jaundice,
   hypokalemia, hyponatremia and three witnessed GTC seizures.
   > Seizures: seems most likely [**1-20**] hyponatremia (see below) vs EtOH
   withdrawl as her EtOh consumption is not clear.  Head CT was
   unremarkable. No further seizure activity, has not received
   supplemental coverage for withdrawl
   - Monitor for EtOH withdrawl (CIWA protocol) .
   - thiamine and folate
    > Methadone: check ECG for QT and follow lytes, if OK then can restart
   ]
    > Hyponatremia: hypovolemic, hyponatremia with good response to fluid
   challenge
    > Hypokalemia: in the setting of metabolic alkalosis: likely in the
   setting of profound contraction alkalosis. Continue to replete K and Cl
   as well as volume repletion, would favor using KCL IV and continue to
   run volume goal of I/O. Initial Cl (on admit was less then assay)
   supportive of the metabolic
   - trend K and aggressive repletion
   > Pancreatitis: obstructed biliary pattern (unclear could be
   gallstonevs  EtOH.  Appreciate hepatology rec
s. MRCP c/w pancreatitis
   - advance diet
   - check triglyercides
   - IVF as above
   - no empiric Abx
   > DIC: evidence of DIC on initial lab panels likely in the setting of
   pancreaititis, these seem to be slowly improving. Will cont to follow.
   > Liver disease: Hep C positive,picture likely c/w alcoholic hepatitis
   (no indication for pentoxy or steroids), cont to follow labs
   - Out patient Hep B vaccination
   - Out pt liver follow up (six weeks)
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines: remove foley today
   Multi Lumen - [**2155-5-26**] 08:30 AM  (remove CVC)
   18 Gauge - [**2155-5-26**] 08:48 AM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_39%22);